US09193707B2
4. Synthesis of 2-(4-aminophenyl)quinazoline-4-carboxylic acid
Into a 50-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed ethyl 2-(4-aminophenyl)quinazoline-4-carboxylate (300 mg, 1.02 mmol, 1.00 equiv), LiOH (85 mg, 3.55 mmol, 2.00 equiv), tetrahydrofuran (5 mL) and water (5 mL). The resulting solution was stirred for 2 h at room temperature. To this was added 122.4 mg of acetic acid. The resulting solution was concentrated under vacuum. This resulted in 25.3 mg (9%) of 2-(4-aminophenyl)quinazoline-4-carboxylic acid as a yellow solid. MS (ESI) m/z 266 ([M+H]+).

reactant | ethyl 2-(4-aminophenyl)quinazoline-4-carboxylate | 1.02 mmol, 300 mg, 1.00 equiv | NC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C17H15N3O2
reactant | LiOH | 3.55 mmol, 85 mg, 2.00 equiv | [Li+].[OH-]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | water | 5 mL | O | H2O
solvent | acetic acid | 122.4 mg | C(C)(=O)O | C2H4O2
product | 2-(4-aminophenyl)quinazoline-4-carboxylic acid | NC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)O | C15H11N3O2
